US07585874B2
1-[2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-pyrrolidin-2-one
As described for Example 60, 6-iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine (135 mg, 0.34 mmol) was converted, using 2-pyrrolidone instead of benzamide, to the title compound (61 mg, 51%) which was obtained as a light brown solid. MS: m/e=359.0 [M+H]+.

reactant | 6-iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 0.34 mmol, 135 mg | IC=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12IN3O
reactant | 2-pyrrolidone | N1C(CCC1)=O | C4H7NO
product | 1-[2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-pyrrolidin-2-one | 61 mg, 51% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)N2C(CCC2)=O)C1 | C21H18N4O2
